*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7S(-55to125[deg])/4.70e-02[uF]/50[V]
* Murata P/N :GRM155C71H473KE19
* Property : C = 4.70e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C71H473KE19 Port1 Port2
C01 Port1 N01 4.75e-08
R01 Port1 N01 1.06e+09
L02 N01 N02 2.17e-10
R03 N02 N03 2.05e-02
C04 N03 N04 7.69e-06
R04 N03 N04 4.81e+02
C05 N04 N05 1.71e-05
R05 N04 N05 2.70e+01
C06 N05 N06 1.41e-05
R06 N05 N06 7.28e+00
C07 N06 N07 1.18e-05
R07 N06 N07 1.35e+00
C08 N07 N08 1.00e-05
R08 N07 N08 1.98e-01
C09 N08 N09 7.31e-06
R09 N08 N09 4.35e-02
L10 N09 N10 2.04e-11
R10 N09 N10 1.17e-01
L11 N10 N11 7.37e-11
R11 N10 N11 7.72e-02
C12 N11 N12 6.79e-08
L12 N11 N12 3.73e-11
R12 N11 N12 3.22e-02
C13 N12 Port2 7.15e-12
L13 N12 Port2 4.72e-11
R13 N12 Port2 1.41e+01
.ENDS GRM155C71H473KE19
